US05223498
In a similar manner to that described in Example 1, 1-benzyl-3-methyl-2-pyrrolidone (14.1 g) in benzene (80 ml) was reacted with 4-(2-aminophenyl)morpholine (8.9 g) in benzene (30 ml) in the presence of phosphorus oxychloride (6.86 ml) for 24 hours at 70° C. to give 4-[2-(1-benzyl-3-methyl-2-pyrrolidinylideneamino)phenyl]morpholine (m.p. 96°-97° C.) which was recrystallised from hexane.

reactant | 1-benzyl-3-methyl-2-pyrrolidone | 14.1 g | C(C1=CC=CC=C1)N1C(C(CC1)C)=O | C12H15NO
reactant | 4-(2-aminophenyl)morpholine | 8.9 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | phosphorus oxychloride | 6.86 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 4-[2-(1-benzyl-3-methyl-2-pyrrolidinylideneamino)phenyl]morpholine | C(C1=CC=CC=C1)N1C(C(CC1)C)=NC1=C(C=CC=C1)N1CCOCC1 | C22H27N3O
